US07049310B2
Preparation of (E)-3-[6-[N-(carboxymethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide
To a stirred solution of (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide (0.5 g, 1.3 mmole) in dioxane (30 mL) was added 1 N NaOH (2 mL, 2 mmole). After stirring for 18 h the reaction was neutralized with 1 N HCl (2 mL, 2 mmole) and concentrated to near dryness. The resulting suspension was diluted with H2O and filtered. The solid was washed with H2O and dried under vacuum to give the title compound (505 mg, 100%) as a off-white solid: MS (ES) m/e 379.2 (M+H)+.

reactant | (E)-3-[6-[N-(methoxycarbonylmethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide | 1.3 mmole, 0.5 g | COC(=O)CNC1=CC=C(C=N1)/C=C/C(=O)N(CC1=C(NC2=CC=CC=C12)C)C | C22H24N4O3
reactant | NaOH | 2 mmole, 1 N, 2 mL | [OH-].[Na+]
reactant | HCl | 2 mmole, 1 N, 2 mL | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (E)-3-[6-[N-(carboxymethyl)amino]pyridin-3-yl]-N-methyl-N-(2-methyl-1H-indol-3-ylmethyl)acrylamide | 505 mg, 100% | C(=O)(O)CNC1=CC=C(C=N1)/C=C/C(=O)N(CC1=C(NC2=CC=CC=C12)C)C | C21H22N4O3
